US07524813B2
Di-tert-butyl dicarbonate (15 g, 69 mmol) was added to a solution of the hydrochloride salt of tyrosine amide (15 g, 69 mmol) in dioxane (140 ml) and a 1 N aqueous solution of sodium hydroxide (140 ml). The reaction mixture was stirred for 16 h at room temperature. It was diluted with a 10% aqueous solution of sodium hydrogensulphate (200 ml) and extracted with ethyl acetate (3×200 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (400 g), using a mixture of dichloromethane/methanol (10:1) to give 8.17 g of [(S)-1-carbamoyl-2-(4-hydroxyphenyl)ethyl]-carbamic acid tert-butyl ester.

reactant | Di-tert-butyl dicarbonate | 69 mmol, 15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tyrosine amide | 69 mmol, 15 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N | C9H12N2O2
reactant | sodium hydroxide | 140 ml | [OH-].[Na+]
solvent | dioxane | 140 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydrogensulphate | 200 ml | S(=O)(=O)(O)[O-].[Na+]
product | [(S)-1-carbamoyl-2-(4-hydroxyphenyl)ethyl]-carbamic acid tert-butyl ester | 8.17 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)O)C(N)=O)=O | C14H20N2O4
